US05493030
To a solution of 4-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-2-methylbut-2-enaldehyde (0.90 g) in tetrahydrofuran (40 mL) was added vinylmagnesium bromide (4.5 mL of a 1M solution in tetrahydrofuran). After stirring for 0.5 hours, the reaction was diluted with ethyl acetate nd washed successively with aqueous ammonium chloride and brine. Drying over magnesium sulfate was followed by filtration and solvent removal to leave a residual oil, 6-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-3-hydroxy-4-methylhexa-1,4-diene, which was carried on without further purification.

reactant | 4-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-2-methylbut-2-enaldehyde | 0.90 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC=C(C=O)C | C22H22O7S
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranyl)-3-hydroxy-4-methylhexa-1,4-diene | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC=C(C(C=C)O)C | C24H26O7S
